US05864039
Benzenethiol (3.0 g), 1-bromo-5-chloropentane (5.7 g) and potassium carbonate (4.15 g) were suspended in N,N-dimethylformamide (50 ml), and the mixture was stirred at 50° C. for 5 hr. After cooling, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried and the solvent was evaporated under reduced pressure. Thus, 5-phenylthiopentyl chloride was obtained. This compound was dissolved in formic acid (50 ml) and 2 equivalents of 30% aqueous hydrogen peroxide solution was added thereto, and the mixture was stirred at room temperature for 6 hr.

reactant | Benzenethiol | 3.0 g | C1(=CC=CC=C1)S | C6H6S
reactant | 1-bromo-5-chloropentane | 5.7 g | BrCCCCCCl | C5H10BrCl
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-phenylthiopentyl chloride | C1(=CC=CC=C1)SCCCCCCl | C11H15ClS
